* C:\Users\austi\OneDrive\Documents\EE333-Project1\ProjectDraft.asc
XU1 N003 N006 N007 N011 NC_01 N006 NC_02 +6V NE555
XU3 NC_03 NC_04 NC_05 NC_06 NC_07 LT1815
XU4 NC_08 NC_09 NC_10 NC_11 NC_12 LT1815
XU5 NC_13 NC_14 NC_15 NC_16 NC_17 LT1815
XU6 NC_18 NC_19 NC_20 NC_21 NC_22 LT1815
XU7 NC_23 NC_24 NC_25 NC_26 NC_27 LT1815
C1 N006 N003 300n
C2 -6V +6V 10mF
D1 -6V N008 D
D2 -6V N012 D
D3 N008 +6V D
D4 N012 +6V D
L1 N010 COM 100µ
L2 N008 N012 900µ
V1 N009 COM SINE(0 120 60)
R1 N006 N011 1000k
R3 N007 N006 5k
XU2 N001 +6V N002 N003 NC_28 -6V N005 N004 LT1576 top=10 bot=1T
C3 +6V -6V 10µ
C4 N001 N002 0.33µ
L3 N003 N002 15µ
D5 N003 N001 D
R4 N003 N005 197k
R5 N005 -6V 5000
C5 N003 -6V 100µ
D6 -6V N002 D
C6 N004 -6V 100p
R2 N010 N009 1
.model D D
.lib C:\Users\austi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 1
.tran 0 100m 0 0.001
.lib LT1576.sub
.lib LTC2.LIB
.lib NE555.sub
.backanno
.end
